US04933355
5{1-Ethoxycarbonyl-1-[2-(3-m-fluorophenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid hemihydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.7 g of ethyl 2-(3-m-fluorophenylureido)thiazol-4-ylglyoxylate, 0.96 g of rhodanine-3-acetic acid, 0.5 g of ammonium chloride, 0.5 ml of 28% v/v aqueous ammonia and 20 ml of ethanol. The resulting product was an orange powder having the following physical properties.

reactant | ethyl 2-(3-m-fluorophenylureido)thiazol-4-ylglyoxylate | 1.7 g | FC=1C=C(C=CC1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12FN3O4S
reactant | rhodanine-3-acetic acid | 0.96 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5{1-Ethoxycarbonyl-1-[2-(3-m-fluorophenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid hemihydrate | O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC(=CC=C1)F)=C1C(N(C(S1)=S)CC(=O)O)=O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC(=CC=C1)F)=C1C(N(C(S1)=S)CC(=O)O)=O | InChI=1S/2C19H15FN4O6S3.H2O/c2*1-2-30-16(28)13(14-15(27)24(7-12(25)26)19(31)33-14)11-8-32-18(22-11)23-17(29)21-10-5-3-4-9(20)6-10;/h2*3-6,8H,2,7H2,1H3,(H,25,26)(H2,21,22,23,29);1H2
